US06294532B1
7-Hydroxy-4-methylsulphanylquinazoline (2.5 g, 13 mmol) was suspended in methylene chloride (65 ml), triphenylphosphine (4.45 g, 17 mmol) was added followed by 4-(3-hydroxypropyl)morpholine (2.47 g, 17 mmol), (Bull Soc. Chim. Fr. 1962, 1117), and diethyl azodicarboxylate (2.92 g, 17 mmol) dropwise. After stirring for 1 hour the volatiles were removed by evaporation and the residue was partitioned between ethyl acetate/ether (20 ml/20 ml) and 1M hydrogen chloride (20 ml). The aqueous layer was separated and adjusted to pH9 with solid sodium hydrogen carbonate. The aqueous layer was extracted with methylene chloride. The organic layer was separated, washed with water, brine and dried (MgSO4). The volatiles were removed by evaporation and the residue was purified by chromatography eluting with methylene chloride/ethyl acetate/methanol (6/3/1 followed by 5/3/2 and 75/0/25) to give 4-methylsulphanyl-7-(3-morpholinopropoxy)quinazoline (2.03 g 49%).

reactant | 7-Hydroxy-4-methylsulphanylquinazoline | 13 mmol, 2.5 g | OC1=CC=C2C(=NC=NC2=C1)SC | C9H8N2OS
reactant | triphenylphosphine | 17 mmol, 4.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(3-hydroxypropyl)morpholine | 17 mmol, 2.47 g | OCCCN1CCOCC1 | C7H15NO2
reactant | diethyl azodicarboxylate | 17 mmol, 2.92 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
product | 4-methylsulphanyl-7-(3-morpholinopropoxy)quinazoline | 2.03 g, 49% | CSC1=NC=NC2=CC(=CC=C12)OCCCN1CCOCC1 | C16H21N3O2S
